US07977344B2
N2-(Cyclohexylmethyl)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purine-2,6-diamine
A solution of 2-chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (150 mg) in cyclohexylamine (363 ul) was heated in the microwave at 170° C. for five minutes. The crude reaction mixture was subjected to C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluant (20-60%) to afford a white solid (98 mg).

reactant | 2-chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 150 mg | ClC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)N | C11H14ClN5O
reactant | water | O | H2O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | cyclohexylamine | 363 ul | C1(CCCCC1)N | C6H13N
product | N2-(Cyclohexylmethyl)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purine-2,6-diamine | 98 mg | C1(CCCCC1)CNC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)N | C18H28N6O
